US09212154B2
Under an argon atmosphere, L-cysteine (15 g) was dissolved in dry ethanol (35 mL), pyruvic acid (18.6 mL) was added thereto at room temperature, and the mixture was stirred for 3 hours. The resulting solid was collected by filtration under reduced pressure, and washed with ice-cooled ethanol to give 2-methylthiazolidine-2,4-dicarboxylic acid (diastereomer mixture) (23 g, yield 97%).

reactant | L-cysteine | 15 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | pyruvic acid | 18.6 mL | C(C(=O)C)(=O)O | C3H4O3
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 2-methylthiazolidine-2,4-dicarboxylic acid | 23 g, yield 97% | CC1(SCC(N1)C(=O)O)C(=O)O | C6H9NO4S
